US04182762
2.3 pts. by wt. of furfural, 2.6 pts. by wt. of 1-amino-2,3-dioxo-piperazine and 10 pts. by vol. of glacial acetic acid are warmed to 90° for 30 minutes and thereafter left for 3 hrs. at RT, whereupon crystallisation occurs. The precipitate is filtered off, washed first with 5 pts. by vol. of glacial acetic acid and then twice with 10 pts. by vol. of ethyl acetate each time and dried over potassium hydroxide. 4.0 pts. by wt. (96.6%) of 1-furfurylideneamino-2,3-dioxo-piperazine of melting point 193°-7° are obtained.

reactant | furfural | C(C1=CC=CO1)=O | C5H4O2
reactant | 1-amino-2,3-dioxo-piperazine | NN1C(C(NCC1)=O)=O | C4H7N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-furfurylideneamino-2,3-dioxo-piperazine | 96.6% | C(C1=CC=CO1)=NN1C(C(NCC1)=O)=O | C9H9N3O3
